US08455646B2
Preparation of methanesulfonyloxy-(5-methyl-thiophen-2-yl)-acetic acid methyl ester (I266)
To a solution of hydroxy-(5-methyl-thiophen-2-yl)-acetic acid methyl ester (I265) (1.84 g, 9.89 mmol) in dry DCM, cooled at 0° C. under nitrogen atmosphere, N-ethyl-N-isopropylpropan-2-amine (2.54 mL, 14.8 mmol) and methanesulfonyl chloride (1.16 mL, 14.8 mmol) are added and the reaction is stirred at RT for 2 hours. DCM is added and the organic phase is washed with aq. NaHCO3, water and brine, dried over Na2SO4 and evaporated to obtain intermediate I268 as a dark brown oil (2.1 g, 80% yield).

reactant | hydroxy-(5-methyl-thiophen-2-yl)-acetic acid methyl ester | 9.89 mmol, 1.84 g | COC(C(C=1SC(=CC1)C)O)=O | C8H10O3S
reactant | N-ethyl-N-isopropylpropan-2-amine | 14.8 mmol, 2.54 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 14.8 mmol, 1.16 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methanesulfonyloxy-(5-methyl-thiophen-2-yl)-acetic acid methyl ester | 2.1 g, 80% yield | COC(C(C=1SC(=CC1)C)OS(=O)(=O)C)=O | C9H12O5S2
